US04186135
In a similar manner 64.5 g of dextrorotary-1-ethyl-2-aminomethylpyrrolidine was reacted with 146 g of 7-ethylsulfonyl-1,4-benzodioxane-5-carbonyl chloride to give, after treatment and purification, 133.5 g of dextrorotatory N-(1-ethyl-2-pyrrolidylmethyl)-7-ethylsulfonyl-1,4-benzodioxane-5-carboxamide (M.P.: 111°-122° C.; yield: 69.8%); (α)D20 =55.5° (in 5% solution in dimethylformamide).

reactant | 1-ethyl-2-aminomethylpyrrolidine | C(C)N1C(CCC1)CN | C7H16N2
reactant | 7-ethylsulfonyl-1,4-benzodioxane-5-carbonyl chloride | 146 g | C(C)S(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)Cl | C11H11ClO5S
product | N-(1-ethyl-2-pyrrolidylmethyl)-7-ethylsulfonyl-1,4-benzodioxane-5-carboxamide | 133.5 g, yield: 69.8% | C(C)N1C(CCC1)CNC(=O)C1=CC(=CC=2OCCOC21)S(=O)(=O)CC | C18H26N2O5S
